US07884124B2
To a solution of 5-methyl-4-nitro-2-thiophene carboxylic acid (4.6 g, 24.6 mmol) in DMF (14.5 mmol) was added N,N-dimethylformamide dimethyl acetal (3.8 mL, 28.5 mmol) and pyrrolidine (2 drops). The mixture was refluxed for 3 h, concentrated in vacuo and the residue taken up in EtOAc (0.2 L). The organic phase was washed with water, saturated aq NaCl, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was chromatographed over silica gel (0 to 40% EtOAc/heptane over 60 min) to give methyl 5-(2-dimethylaminovinyl)-4-nitrothiophene-2-carboxylate as a dark red solid (1.0 g, 16%). 1H NMR (400 MHz, CDCl3) δ (ppm) 8.10 (s, 1H) 7.31 (d, J=13.1 Hz, 1H) 6.56 (d, J=13.1 Hz, 1H) 3.87 (s, 3H) 3.07 (s, 6H). LCMS m/e 279 (M+Na).

reactant | 5-methyl-4-nitro-2-thiophene carboxylic acid | 24.6 mmol, 4.6 g | CC1=C(C=C(S1)C(=O)O)[N+](=O)[O-] | C6H5NO4S
reactant | DMF | 14.5 mmol | CN(C)C=O | C3H7NO
reactant | N,N-dimethylformamide dimethyl acetal | 28.5 mmol, 3.8 mL | COC(N(C)C)OC | C5H13NO2
catalyst | pyrrolidine | 2 drops | N1CCCC1 | C4H9N
product | methyl 5-(2-dimethylaminovinyl)-4-nitrothiophene-2-carboxylate | 1.0 g, 16% | CN(C=CC1=C(C=C(S1)C(=O)OC)[N+](=O)[O-])C | C10H12N2O4S
